US05099019
EXAMPLE 142 21-[4 (4-Methoxyphenyl)-1-piperazinyl]-16α-methyl-pregna-1,4,9(11) -triene-3,20-dione (I)
Following the general procedure of EXAMPLES 1.6A, 7, 8, 11-19, 83, 126 and 139 and making non-critical variations but starting with 4 -(4-methoxyphenyl)piperazine (PREPARATION A-31) and 21-iodo-16α-methylpregna-1,4,9(11)-triene-3,20-dione (PREPARATION S-22), the title compound is obtained.

reactant | 4 -(4-methoxyphenyl)piperazine | COC1=CC=C(C=C1)N1CCNCC1 | C11H16N2O
reactant | 21-iodo-16α-methylpregna-1,4,9(11)-triene-3,20-dione | ICC([C@H]1[C@@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)C3=CC[C@]12C)=O)C)=O | C22H27IO2
product | 21-[4 (4-Methoxyphenyl)-1-piperazinyl]-16α-methyl-pregna-1,4,9(11) -triene-3,20-dione | COC1=CC=C(C=C1)N1CCN(CC1)CC([C@H]1[C@@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)C3=CC[C@]12C)=O)C)=O | C33H42N2O3
